US04207317
The starting material is obtained as follows: To the suspension of 2,700 g of p-methoxyphenylhydrazine in 24,600 ml of 50% aqueous ethanol, the solution of 1,411 g of sodium acetate in 3,000 ml of water is added while stirring under nitrogen at room temperature for 15 minutes, followed by 2,148 g of ethyl acetoacetate during 30 minutes at 25°-30°. The mixture is refluxed for 45 minutes, slowly cooled to 10° and stirred overnight. The precipitate formed is filtered off, washed twice with 2,000 ml of cold 50% aqueous ethanol each, and dissolved in 2,000 ml of boiling anhydrous ethanol. The solution is stirred at room temperature overnight, the precipitate formed filtered off and washed twice with 500 ml of cold ethanol, to yield the 1-(p-methoxyphenyl)-3-methyl-2-pyrazolin-5-one melting at 125°-128°.

reactant | p-methoxyphenylhydrazine | 2,700 g | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | sodium acetate | 1,411 g | C(C)(=O)[O-].[Na+]
reactant | ethyl acetoacetate | 2,148 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | ethanol | 24,600 ml | C(C)O | C2H6O
solvent | water | 3,000 ml | O | H2O
product | 1-(p-methoxyphenyl)-3-methyl-2-pyrazolin-5-one | COC1=CC=C(C=C1)N1N=C(CC1=O)C | C11H12N2O2
